US07230098B2
3-(2,6-Dichloro-benzyloxy)-5-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-pyridin-2-ylamine was prepared from 5-bromo-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine (example I(a)) and 4{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-ethyl}-morpholine (prepared in part 1) following procedure 3 as a white solid.

reactant | 5-bromo-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)OCC1=C(C=CC=C1Cl)Cl | C12H9BrCl2N2O
reactant | 4{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-ethyl}-morpholine | CC1(OB(OC1(C)C)C1=CC=C(OCCN2CCOCC2)C=C1)C | C18H28BNO4
product | 3-(2,6-Dichloro-benzyloxy)-5-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-pyridin-2-ylamine | ClC1=C(COC=2C(=NC=C(C2)C2=CC=C(C=C2)OCCN2CCOCC2)N)C(=CC=C1)Cl | C24H25Cl2N3O3
